US08304419B2
Step C: 3-Chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-5-formyl-1H-pyrrole-2-carboxamide
HATU (0.061 g, 0.161 mmol) was added to a solution of 3-chloro-5-formyl-1H-pyrrole-2-carboxylic acid (0.028 g, 0.161 mmol), 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.050 g, 0.161 mmol) and DIPEA (0.028 mL, 0.161 mmol) in DMF (2 mL). The solution was stirred overnight at RT. The reaction mixture was partitioned between water and EtOAc. The organic layer was washed with a 15% Na2CO3 solution and dried over MgSO4. The solid was filtered off and the solvent was evaporated. Purification was accomplished by silica gel column chromatography (EtOAc/hexanes) to give an orange film which was triturated in acetone to afford the title compound (0.012 g, 15%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.88 (s, 1H), 9.57 (s, 1H), 8.53-8.71 (m, 1H), 7.74-7.86 (m, 1H), 7.47-7.52 (m, 2H), 7.38-7.46 (m, 2H), 7.04 (s, 1H), 4.52 (d, 1H). LCMS: m/z 466.2 (M+1).

reactant | HATU | 0.161 mmol, 0.061 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-chloro-5-formyl-1H-pyrrole-2-carboxylic acid | 0.161 mmol, 0.028 g | ClC1=C(NC(=C1)C=O)C(=O)O | C6H4ClNO3
reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.161 mmol, 0.050 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
reactant | DIPEA | 0.161 mmol, 0.028 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-Chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-5-formyl-1H-pyrrole-2-carboxamide | 0.012 g, 15% | ClC1=C(NC(=C1)C=O)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F | C20H11Cl3FN3O3
